US05496853
Synthesis of 7-amino-2-(3-pyridyl)benzoxazole
4 ml of 10% acetic acid was added to 7-nitro-2-(3-pyridyl)benzoxazole prepared in Reference Example 3, and 200 mg of powdered iron was added by portions with stirring at room temperature. The mixture was heated to 100° C. in an oil bath and stirred for 2 hr. The reaction mixture was filtered through Celite and washed with a small amount of dilute hydrochloric acid. The filtrate was neutralized with an aqueous sodium hydroxide solution, the product was extracted with ethyl acetate, and the organic layer was dried. The organic solvent was removed by evaporation to provide 153 mg of the intended title compound.

reactant | 7-nitro-2-(3-pyridyl)benzoxazole | [N+](=O)([O-])C1=CC=CC=2N=C(OC21)C=2C=NC=CC2 | C12H7N3O3
catalyst | iron | 200 mg | [Fe] | Fe
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 7-amino-2-(3-pyridyl)benzoxazole | 153 mg | NC1=CC=CC=2N=C(OC21)C=2C=NC=CC2 | C12H9N3O
